US04916152
To a solution of pyridine (8.5 ml) in dichloromethane (150 ml) was added chromium trioxide (5.55 g) in an ice bath and the mixture was stirred at room temperature for 1 hour. To the solution were added Celite and a solution of (2S,4S)-1-t-butoxycarbonyl-2-hydroxymethyl-4-phenylsulfonylaminopyrrolidine (3.4 g) in dichloromethane (20 ml) and the mixture was stirred at room temperature for 1 hour. After being diluted with a mixture of n-hexane and ethyl acetate (1:1, 150 ml), the solution was passed through silica gel and the solvent was evaporated in vacuo to give (2S,4S)-1-t-butoxycarbonyl-2-formyl-4-phenylsulfonylaminopyrrolidine as a pale yellow oil.

reactant | pyridine | 8.5 ml | N1=CC=CC=C1 | C5H5N
reactant | (2S,4S)-1-t-butoxycarbonyl-2-hydroxymethyl-4-phenylsulfonylaminopyrrolidine | 3.4 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)NS(=O)(=O)C1=CC=CC=C1)CO | C16H24N2O5S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | chromium trioxide | 5.55 g | [O-2].[O-2].[O-2].[Cr+6]
product | (2S,4S)-1-t-butoxycarbonyl-2-formyl-4-phenylsulfonylaminopyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)NS(=O)(=O)C1=CC=CC=C1)C=O | C16H22N2O5S
